US04005217
Dry potassium thiocyanate (18.5 g), ethyl chloroformate (15.6 g) and dry acetonitrile (65 ml) were mixed with stirring at laboratory temperature and stirring was continued for 1 hour at 45°-55° C. The mixture was then cooled in an ice bath to 15° C. and 4-n-butyl-2-nitroaniline (19.0 g) was added in portions with stirring during 15 minutes, the temperature of the stirred reaction mixture being maintained between 15 and 18° C. during the addition. When the addition was complete the mixture was stirred at 15° C. for 2 hours, poured into water (1 litre), and the yellow solid which separated was filtered off and washed with water. This crude product was recrystallised from cyclohexane to give 1-ethoxycarbonyl-3-(4-n-butyl-2-nitrophenyl)thiourea (26.9 g), m.p. 121°-123° C.

reactant | potassium thiocyanate | 18.5 g | [S-]C#N.[K+]
reactant | ethyl chloroformate | 15.6 g | ClC(=O)OCC | C3H5ClO2
reactant | acetonitrile | 65 ml | C(C)#N | C2H3N
reactant | 4-n-butyl-2-nitroaniline | 19.0 g | C(CCC)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H14N2O2
solvent | water | 1 litre | O | H2O
product | 1-ethoxycarbonyl-3-(4-n-butyl-2-nitrophenyl)thiourea | 26.9 g | C(C)OC(=O)NC(=S)NC1=C(C=C(C=C1)CCCC)[N+](=O)[O-] | C14H19N3O4S
